US09259470B2
(S)-1-(2-(tert-Butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2(1H)-one (0.100 g, 0.186 mmol) and 1,3-dimethyl-1H-pyrazol-4-amine (0.413 g, 3.72 mmol) were placed in s-BuOH (2 mL), heated to 110° C. overnight, then poured into water and extracted with DCM. The combined organic fractions were dried (MgSO4), filtered, and concentrated to give the crude product, which was purified by column chromatography (500:10 DCM/MeOH) to give the product (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-((1,3-dimethyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (0.070 g, 66.2% yield).

reactant | (S)-1-(2-(tert-Butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2(1H)-one | 0.186 mmol, 0.100 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C1=CC(=C(C=C1)Cl)F)N1C(C=C(C=C1)C1=NC(=NC=C1)S(=O)(=O)C)=O | C24H29ClFN3O4SSi
reactant | 1,3-dimethyl-1H-pyrazol-4-amine | 3.72 mmol, 0.413 g | CN1N=C(C(=C1)N)C | C5H9N3
reactant | water | O | H2O
solvent | s-BuOH | 2 mL | C(C)(CC)O | C4H10O
product | (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-((1,3-dimethyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.070 g, 66.2% yield | [Si](C)(C)(C(C)(C)C)OC[C@H](C1=CC(=C(C=C1)Cl)F)N1C(C=C(C=C1)C1=NC(=NC=C1)NC=1C(=NN(C1)C)C)=O | C28H34ClFN6O2Si
